US04948796
21.1 g of 5-hydroxy-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine was suspended in 100 ml of methylene chloride. To the suspension was added 35.7 g of thionyl chloride with water-cooling. The resulting mixture was stirred for 1 hour at room temperature. The solvent was removed by distillation under reduced pressure to obtain crystals of 5-chloro-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine hydrochloride. The crystals were suspended in 100 ml of methylene chloride.

reactant | 5-hydroxy-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine | 21.1 g | OC1C2=C(CCC3=NC=CC=C31)C=CC=C2 | C14H13NO
reactant | thionyl chloride | 35.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine hydrochloride | Cl.ClC1C2=C(CCC3=NC=CC=C31)C=CC=C2 | InChI=1S/C14H12ClN.ClH/c15-14-11-5-2-1-4-10(11)7-8-13-12(14)6-3-9-16-13;/h1-6,9,14H,7-8H2;1H
